US09029391B2
Hydroxyl-[7-hydroxy-2-methyl-4-(5-methyl-chroman-6-yl)-1-oxo-1,2-dihydro-isoquinolin-3-yl]-acetic acid methyl ester
To a solution of [7-Benzyloxy-2-methyl-4-(5-methyl-chroman-6-yl)-1-oxo-1,2-dihydro-isoquinolin-3-yl]-trimethylsilanyloxy-acetonitrile (2.5 g, 4.64 mmol) in H2SO4/CH3OH (30 mL, V/V=1:3). The resulting mixture was heated to 80° C. under N2 for 12 h. The reaction mixture was poured into ice water and extracted with DCM (50 mL*3), dried over sodium sulfate and concentrated to dryness. The mixture was purified by chromatography column on silica gel to afford the title product (0.6 g, 32%). LCMS (10-80 AB—2MIN.M): Rt=0.993, purity=75%, M+1=410.

reactant | [7-Benzyloxy-2-methyl-4-(5-methyl-chroman-6-yl)-1-oxo-1,2-dihydro-isoquinolin-3-yl]-trimethylsilanyloxy-acetonitrile | 4.64 mmol, 2.5 g | C(C1=CC=CC=C1)OC1=CC=C2C(=C(N(C(C2=C1)=O)C)C(C#N)O[Si](C)(C)C)C=1C(=C2CCCOC2=CC1)C | C32H34N2O4Si
reactant | H2SO4 CH3OH | 30 mL | OS(=O)(=O)O.CO
product | Hydroxyl-[7-hydroxy-2-methyl-4-(5-methyl-chroman-6-yl)-1-oxo-1,2-dihydro-isoquinolin-3-yl]-acetic acid methyl ester | 0.6 g, 32% | COC(C(C=1N(C(C2=CC(=CC=C2C1C=1C(=C2CCCOC2=CC1)C)O)=O)C)O)=O | C23H23NO6
